US08049015B2
3-[(N-Benzyloxycarbonyl-N-ethyl-amino)-methyl]-4-bromo-benzoic acid ethyl ester (3.62 g, 7.2 mmol) was dissolved in MeOH (40 mL) and cooled to 0° C. 1N Aqueous LiOH (22 mL, 22 mmol) was added, and the reaction was stirred at room temperature for 3 hours. The mixture was quenched with 1N aqueous HCl (22 mL) and extracted three times with EtOAc. The combined organic layers were washed with brine, dried, and concentrated to give 3-[(N-benzyloxycarbonyl-N-ethyl-amino)-methyl]-4-bromo-benzoic acid, which was combined with the hydrolyzed product isolated in step 5.

reactant | 3-[(N-Benzyloxycarbonyl-N-ethyl-amino)-methyl]-4-bromo-benzoic acid ethyl ester | 7.2 mmol, 3.62 g | C(C)OC(C1=CC(=C(C=C1)Br)CN(CC)C(=O)OCC1=CC=CC=C1)=O | C20H22BrNO4
reactant | LiOH | 22 mmol, 1N, 22 mL | [Li+].[OH-]
solvent | MeOH | 40 mL | CO | CH4O
product | 3-[(N-benzyloxycarbonyl-N-ethyl-amino)-methyl]-4-bromo-benzoic acid | C(C1=CC=CC=C1)OC(=O)N(CC)CC=1C=C(C(=O)O)C=CC1Br | C18H18BrNO4
